US04957533
Methylamine was passed into a solution of about 10.1 g of 4-(trifluoromethyl)benzaldehyde in about 100 ml of benzene over MgSO4 for four hours with stirring. The solution was filtered, and then the solvent was evaporated to give N-[4-(trifluoromethyl)benzylidene]methylamine as an oil. This was taken up in benzene and catalytically (5% Pd/C) hydrogenated to give the title product.

reactant | Methylamine | CN | CH5N
reactant | 4-(trifluoromethyl)benzaldehyde | about 10.1 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | benzene | about 100 ml | C1=CC=CC=C1 | C6H6
product | N-[4-(trifluoromethyl)benzylidene]methylamine | FC(C1=CC=C(C=CN)C=C1)(F)F | C9H8F3N
